US04511569
Preparation of Methyl 5,6-Dihydrobenzo[f]quinolin-3(4H)-one-2-carboxylate
Add 6.0 gm of 5,6-dihydrobenzo[f]quinolin-3(4H)-one-2-carboxylic acid to 100 ml of methanol. Dropwise at 0° C., add 10 ml of thionyl chloride to the system. Heat the system at reflux for 6 hours. Remove the solvent by stripping. Isolate the title compound.

reactant | 5,6-dihydrobenzo[f]quinolin-3(4H)-one-2-carboxylic acid | 6.0 gm | C1=C(C(NC=2CCC3=C(C12)C=CC=C3)=O)C(=O)O | C14H11NO3
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 5,6-Dihydrobenzo[f]quinolin-3(4H)-one-2-carboxylate | C1=C(C(NC=2CCC3=C(C12)C=CC=C3)=O)C(=O)OC | C15H13NO3
